US09293712B2
ZnCl2 (13.6 g, 100.0 mmol) and THF (600 mL) were cooled to 0° C. After that, cyclohexylmagnesium chloride (70.0 mL, 70.0 mmol, 1M in THF) was added at 0° C. The mixture was stirred for 15 min from 0° C. to room temperature. The mixture was bubbled with nitrogen for 15 min, followed by the addition of 4-iododibenzo[b,d]furan (11.8 g, 40.0 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (3.3 g, 8.0 mmol), and Pd2(dba)3 (1.8 g, 2.0 mmol). The resultant mixture was bubbled with nitrogen for 15 min and stirred for 48 h. The reaction mixture was quenched by the addition of saturated K2CO3 solution and extracted with DCM. The extracts were dried over MgSO4 and the solvent was removed in vacuo. The residue was purified by flash chromatography using 10% DCM/hexane to yield 4-cyclohexyldibenzo[b,d]furan (9.0 g, 90% yield) as a colorless oil.

reactant | cyclohexylmagnesium chloride | 70.0 mmol, 1M, 70.0 mL | C1(CCCCC1)[Mg]Cl
reactant | 4-iododibenzo[b,d]furan | 40.0 mmol, 11.8 g | IC1=CC=CC2=C1OC1=C2C=CC=C1 | C12H7IO
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 8.0 mmol, 3.3 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | ZnCl2 | 100.0 mmol, 13.6 g | [Cl-].[Cl-].[Zn+2]
catalyst | Pd2(dba)3 | 2.0 mmol, 1.8 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 4-cyclohexyldibenzo[b,d]furan | 9.0 g, 90% yield | C1(CCCCC1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C18H18O
